US08431607B2
To a solution of (3S,5R)-1-[4-(4-chlorophenoxy)phenyl]-3-allyl-5-[3-(trifluoromethyl)phenyl]pyrrolidin-2-one (61.5 mg, 0.13 mmol) in dry THF (1 mL) at 0° C. and argon is added dropwise a 9-BBN solution (0.57 mL, 0.5 M in hexane). After the addition is complete, the reaction mixture is stirred at 0° C. for 2 h and at room temperature for 3 h. The mixture is then cooled to 0° C. and treated with a 3M NaOH (0.3 mL). The oxidation is carried out by slow addition of 35% H2O2 (0.3 mL) at 0° C. The reaction mixture is stirred at 0° C. for 1 h and then at room temperature overnight. The resulting solution is poured into ethyl acetate (50 mL), washed with brine (10 mL), dried over Na2SO4, filtered and evaporated. The residue is purified on silica gel (0-50% ethyl acetate in hexane) to give (3S,5R)-1-[4-(4-chlorophenoxy)phenyl]-5-[3-(trifluoromethyl)phenyl]-3-(3-hydroxypropyl)pyrrolidin-2-one (64 mg, 100%) as a colorless oil. 1H NMR (CDCl3, 400 MHz) δ 7.60-7.51 (m, 1H), 7.50-7.43 (m, 2H), 7.43-7.35 (m, 3H), 7.28-7.22 (m, 2H), 6.93-6.83 (m, 4H), 5.24 (dd, J=10.5, 3.0 Hz, 1H), 3.70 (t, J=7.2 Hz, 2H), 2.87-2.75 (m, 1H), 2.45-2.33 (m, 1H), 2.26-2.16 (m, 1H), 2.11-1.98 (m, 1H), 1.87 (s, br, 1H), 1.75-1.58 (m, 3H). HPLC-MS calculated for C26H23ClF3NO3 (M+H+) 490.13, found 490.10.

reactant | (3S,5R)-1-[4-(4-chlorophenoxy)phenyl]-3-allyl-5-[3-(trifluoromethyl)phenyl]pyrrolidin-2-one | 0.13 mmol, 61.5 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C([C@H](C[C@@H]2C2=CC(=CC=C2)C(F)(F)F)CC=C)=O)C=C1 | C26H21ClF3NO2
reactant | 9-BBN | 0.5 M, 0.57 mL | B1C2CCCC1CCC2 | C8H15B
reactant | NaOH | 3M, 0.3 mL | [OH-].[Na+]
reactant | H2O2 | 0.3 mL | OO | H2O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (3S,5R)-1-[4-(4-chlorophenoxy)phenyl]-5-[3-(trifluoromethyl)phenyl]-3-(3-hydroxypropyl)pyrrolidin-2-one | 64 mg, 100% | ClC1=CC=C(OC2=CC=C(C=C2)N2C([C@H](C[C@@H]2C2=CC(=CC=C2)C(F)(F)F)CCCO)=O)C=C1 | C26H23ClF3NO3
